US04008256
First 111.2 g (0.600 mole) tributyl amine and then 196.2 g (2.00 mole) distilled furfuryl alcohol were added to 224.6 g (2.20 mole) acetic anhydride. The temperature was allowed to rise to 35° C and was maintained at that for 5 hours. The mixture weighed 528.7 g and its concentration was 52.05%, i.e., the yield was 98.2%. The crude product was washed 3 times with 200 ml water. 5 ml HCl had been added to the second washing water. 264.7 g furfuryl acetate was obtained and its concentration was 95.6%, i.e., the yield was 90.3%.

reactant | tributyl amine | 0.600 mole, 111.2 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | furfuryl alcohol | C(C1=CC=CO1)O | C5H6O2
reactant | acetic anhydride | 2.20 mole, 224.6 g | C(C)(=O)OC(C)=O | C4H6O3
product | furfuryl acetate | 264.7 g, yield was 98.2% | C(C)(=O)OCC1=CC=CO1 | C7H8O3
